US06010826
A 1-liter eggplant type flask was charged with 25.4 g (0.20 mol) of oxalyl chloride and 250 ml of n-heptane, to which 21.5 (0.25 mol) of 3-methyl-2-buten-1-ol were added dropwise over 3 hours while bubbling nitrogen at room temperature, followed by stirring further for 2 hours. Thereafter, the reaction mixture was concentrated and distilled to obtain 11.6 g of 3-methyl-2-butenyl chlorooxalate.

reactant | oxalyl chloride | 0.20 mol, 25.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-methyl-2-buten-1-ol | CC(=CCO)C | C5H10O
solvent | n-heptane | 250 ml | CCCCCCC | C7H16
product | 3-methyl-2-butenyl chlorooxalate | 11.6 g | C(C(=O)OCC=C(C)C)(=O)Cl | C7H9ClO3
